US08580957B2
Methyl 4-[(2S,4R)-1-acetyl-2-methyl-4-({[(1-methylethyl)oxy]carbonyl}amino)-1,2,3,4-tetrahydro-6-quinolinyl]-3-methylbenzoate (for a preparation see Intermediate 97) (320 mg, 0.730 mmol) was added to a cold (ice bath) suspension of aluminium chloride (370 mg, 2.77 mmol) in dichloromethane (DCM) (4 mL). The reaction was stirred at approximately 0° C. for 30 min, then treated with a solution of methanol (0.320 mL) and triethylamine (1.230 mL, 8.82 mmol). The resulting mixture was stirred further at approximately 0° C. for 20 min then was diluted with EtOAc (25 mL) and a saturated NaHCO3 aqueous solution (25 mL). The reaction mixture was then filtered through celite and the insoluble residues were washed with EtOAc (15 mL) and a saturated NaHCO3 aqueous solution (15 ml). The filtered aluminum residues were suspended in MeOH and sonicated. The resulting suspension was filtered and the filtrate was concentrated in vacuo to give a white solid. This solid was loaded onto a 20 G SCX cartridge and eluted with MeOH then with 2M NH3 in MeOH. The ammonia fractions were combined and concentrated in vacuo to give methyl 4-[(2S,4R)-1-acetyl-4-amino-2-methyl-1,2,3,4-tetrahydro-6-quinolinyl]-3-methylbenzoate (145 mg, 56%).

reactant | Methyl 4-[(2S,4R)-1-acetyl-2-methyl-4-({[(1-methylethyl)oxy]carbonyl}amino)-1,2,3,4-tetrahydro-6-quinolinyl]-3-methylbenzoate | C(C)(=O)N1[C@H](C[C@H](C2=CC(=CC=C12)C1=C(C=C(C(=O)OC)C=C1)C)NC(=O)OC(C)C)C | C25H30N2O5
reactant | aluminium chloride | 2.77 mmol, 370 mg | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | triethylamine | 8.82 mmol, 1.230 mL | C(C)N(CC)CC | C6H15N
reactant | NaHCO3 | 25 mL | C(=O)(O)[O-].[Na+]
solvent | dichloromethane | 4 mL | ClCCl | CH2Cl2
solvent | EtOAc | 25 mL | CCOC(=O)C | C4H8O2
solvent | methanol | 0.320 mL | CO | CH4O
product | methyl 4-[(2S,4R)-1-acetyl-4-amino-2-methyl-1,2,3,4-tetrahydro-6-quinolinyl]-3-methylbenzoate | 145 mg, 56% | C(C)(=O)N1[C@H](C[C@H](C2=CC(=CC=C12)C1=C(C=C(C(=O)OC)C=C1)C)N)C | C21H24N2O3
